* Behavioral op-amp models for DC operating point analysis
*
* These subcircuits capture the properties that matter for .op simulation:
*   - High open-loop gain
*   - High input impedance
*   - Finite output impedance
*   - Output swing limits (rail-to-rail vs limited)
*
* Bandwidth and slew rate are irrelevant for .op and not modeled.

* ─── Generic rail-to-rail DC op-amp approximation ───────────────────
* Pins: inp inn vdd vss out
* Output clamps to VSS..VDD (rail-to-rail)
* Modeling assumptions: gain 200k, differential Rin 1T, Rout 100 ohm.
* This is NOT a validated TLV906x vendor macro-model; no AC/stability claims.
.subckt opamp_rr inp inn vdd vss out
Rin inp inn 1e12
Egain mid 0 inp inn 200000
Rgain mid mid_clamp 1
* Clamp output to rails using diode limiters
Dhi mid_clamp hiref D_clamp
Dlo loref mid_clamp D_clamp
Vhi vdd hiref 0
Vlo loref vss 0
.model D_clamp D(Is=1e-12 N=0.001)
Rout mid_clamp out 100
.ends opamp_rr

* ─── Limited-swing op-amp (LM324) ─────────────────────────────
* Pins: inp inn vdd vss out
* Output clamps to VSS..VDD-1.5V (LM324 VOH limit on 5V supply)
* Source: LM324 datasheet - VOH=VCC-1.5V typ, Gain: 100k typ, Rout: ~100Ω
.subckt opamp_lm324 inp inn vdd vss out
Rin inp inn 1e6
Egain mid 0 inp inn 100000
Rgain mid mid_clamp 1
* Clamp output: low = VSS, high = VDD - 1.5V
Dhi mid_clamp hiref D_clamp2
Dlo loref mid_clamp D_clamp2
Vhi vdd hiref 1.5
Vlo loref vss 0
.model D_clamp2 D(Is=1e-12 N=0.001)
Rout mid_clamp out 100
.ends opamp_lm324
